US07323475B2
f) 4-Hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester
A mixture of 432 mg of 1-bromo-4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester (1 mmol), 63 mg of red phosphorous (2 mmol), 0.4 ml of aqueous 57 wt % HI (3 mmol), and 1 ml of glacial acetic acid was refluxed with stirring for 30 min. Then the reaction mixture was diluted with 25 ml of ethyl acetate, filtered by suction through a pad of celite, washed with a solution of 0.2 g of NaHSO3 in 5 ml of water, and washed two times with 5 ml of concentrated aqueous sodium bicarbonate solution. The organic phase was dried over MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with hexanes:ethyl acetate (85:15). 123 mg of the title compound were obtained; 1H NMR (CDCl3): δ=11.85 (s, 1H), 8.60 (s, 1H), 8.23 (d, 1H), 7.38 to 7.63 (m, 7H), 4.49 (t, 2H), 1.87 (m, 2H), 1.47 (m, 2H), 0.98 (t, 3H).

reactant | 1-bromo-4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | 1 mmol, 432 mg | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)SC1=CC=CC=C1)Br | C20H18BrNO3S
reactant | HI | 3 mmol | I | HI
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid butyl ester | 123 mg | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)SC1=CC=CC=C1 | C20H19NO3S
